US08563742B2
3-{(5-methyl-thiophen-2-ylmethyl)-[4-(3,3,5,5-tetramethyl-cyclohexyl)-thiazol-2-yl]-amino}-propionic acid tert-butyl ester (60 mg, 0.12 mmol) was treated with NaOH (2N NaOH: 1 mL; MeOH: 1 mL; THF: 1 mL) and the reaction was heated at 50° C. for 3 hrs following a method analogous to General Procedure G1 to produce 3-{(5-methyl-thiophen-2-ylmethyl)-[4-(3,3,5,5-tetramethyl-cyclohexyl)-thiazol-2-yl]-amino}-propionic acid (25 mg) after workup and purification. LC-MS m/z: 421 (M+1)+. 1H NMR (400 MHz, CDCl3): δ 6.81 (d, 1H), 6.60 (d, 1H), 6.12 (s, 1H), 4.60 (S, 2H), 3.75-3.80 (m, 2H), 2.92 (m, 1H), 2.68-2.73 (m, 2H), 2.44 (s, 3H), 1.73 (d, 2H), 1.27-1.32 (m, 1H), 1.00-1.17 (m, 3H), 1.07 (s, 6H), 0.93 (s, 6H). The sodium carboxylate salt of the title compound could be prepared from this acid using a method analogous to General Procedure H.

reactant | 3-{(5-methyl-thiophen-2-ylmethyl)-[4-(3,3,5,5-tetramethyl-cyclohexyl)-thiazol-2-yl]-amino}-propionic acid tert-butyl ester | 0.12 mmol, 60 mg | C(C)(C)(C)OC(CCN(C=1SC=C(N1)C1CC(CC(C1)(C)C)(C)C)CC=1SC(=CC1)C)=O | C26H40N2O2S2
reactant | NaOH | 2N, 1 mL | [OH-].[Na+]
product | 3-{(5-methyl-thiophen-2-ylmethyl)-[4-(3,3,5,5-tetramethyl-cyclohexyl)-thiazol-2-yl]-amino}-propionic acid | 25 mg | CC1=CC=C(S1)CN(CCC(=O)O)C=1SC=C(N1)C1CC(CC(C1)(C)C)(C)C | C22H32N2O2S2
